US07829721B2
a) 4-(Benzyloxy)benzyl (2-bromo-5-fluorophenyl)acetate resin
A suspension of 3 g (2.73 mmol) of Wang resin (p-benzyloxybenzyl alcohol resin, 100-200 mesh) in 49 ml of dichloromethane is stirred (orbital stirring) at room temperature for 15 minutes. 2.8 g (12.0 mmol) of (2-bromo-5-fluorophenyl)acetic acid dissolved in 20 ml of dichloromethane are then added, followed by addition of 0.067 g (0.55 mmol) of 4-dimethylaminopyridine and 1.88 ml (12.0 mol) of N,N′-diisopropylcarbodiimide.

reactant | p-benzyloxybenzyl alcohol | C(C1=CC=CC=C1)OC1=CC=C(CO)C=C1 | C14H14O2
reactant | (2-bromo-5-fluorophenyl)acetic acid | 12.0 mmol, 2.8 g | BrC1=C(C=C(C=C1)F)CC(=O)O | C8H6BrFO2
reactant | N,N′-diisopropylcarbodiimide | 12.0 mol, 1.88 ml | C(C)(C)N=C=NC(C)C | C7H14N2
solvent | dichloromethane | 49 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.55 mmol, 0.067 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 4-(Benzyloxy)benzyl (2-bromo-5-fluorophenyl)acetate | BrC1=C(C=C(C=C1)F)CC(=O)OCC1=CC=C(C=C1)OCC1=CC=CC=C1 | C22H18BrFO3
